US03984460
N-Methyl-N-n-octadecyl-(5-tert.-butyl-2,3-dimethyl-4-hydroxyphenyl)acetamid
N-n-dodecyl-(5-tert.-butyl-2,3-dimethyl-4-hydroxyphenyl)acetamide is made by an analogous procedure by substituting n-dodecylamine for N-methyl-N-n-octadecylamine.

reactant | N-n-dodecyl-(5-tert.-butyl-2,3-dimethyl-4-hydroxyphenyl)acetamide | C(CCCCCCCCCCC)NC(CC1=C(C(=C(C(=C1)C(C)(C)C)O)C)C)=O | C26H45NO2
reactant | N-methyl-N-n-octadecylamine | CNCCCCCCCCCCCCCCCCCC | C19H41N
product | N-Methyl-N-n-octadecyl-(5-tert.-butyl-2,3-dimethyl-4-hydroxyphenyl)acetamid | CN(C(CC1=C(C(=C(C(=C1)C(C)(C)C)O)C)C)=O)CCCCCCCCCCCCCCCCCC | C33H59NO2
